US08530687B2
N-(1-adamantyl)-N-phenylamine (1b)
A mixture of Pd(dba)2 (0.259 g, 0.450 mmol) and (±)-2,2′-Bis(diphenylphosphino)-1,1′-binaphthalene (0.417 g, 0.670 mmol) in toluene (40 mL) was stirred for 30 min at room temperature before adding 1-adamantylamine (2.269 g, 15.0 mmol), bromobenzene (1.60 mL, 15.2 mmol) and sodium tert-butoxide (2.02 g, 21.0 mmol). The reaction solution was stirred for 24 h at 100° C. After cooling the reaction mixture to room temperature, Et2O (50 mL) was added. The reaction mixture was filtered through a pad of celite and was concentrated. Flash column chromatography (silicagel, 7:1 hexanes/EtOAc) afforded the desired product (2.239 g, 65.7%) as a pale yellow solid. 1H NMR (300 MHz, CDCl3) δ 7.18 (t, J=7.6 Hz, 2H), 6.83 (m, 3H), 3.26 (br. s, 1H), 2.14 (m, 3H), 1.91 (m, 6H), 1.71 (m, 6H); 13C NMR (75 MHz, CDCl3) δ 146.3, 129.0, 119.4, 119.3, 52.5, 43.8, 36.8, 30.0. HRMS-ESI (m/z): [M+H]+ calcd for C16H21N, 228.1747. found, 228.1756.

reactant | 1-adamantylamine | 15.0 mmol, 2.269 g | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
reactant | bromobenzene | 15.2 mmol, 1.60 mL | BrC1=CC=CC=C1 | C6H5Br
reactant | sodium tert-butoxide | 21.0 mmol, 2.02 g | CC(C)([O-])C.[Na+]
reactant | Et2O | 50 mL | CCOCC | C4H10O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dba)2 | 0.450 mmol, 0.259 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | (±)-2,2′-Bis(diphenylphosphino)-1,1′-binaphthalene | 0.670 mmol, 0.417 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | N-(1-adamantyl)-N-phenylamine | 2.239 g, 65.7% | C12(CC3CC(CC(C1)C3)C2)NC2=CC=CC=C2 | C16H21N
